US07816557B2
3-{4-[1-(4′-tert-butyl-2,6-dimethyl-biphenyl-4-ylsulfanyl)-3-methyl-butyl]-benzoylamino}-propionic acid, Isomer 2
The title compound is prepared in a manner substantially similar to Example 367 starting from 3-{4-[1-(4-bromo-3,5-dimethyl-phenylsulfanyl)-3-methyl-butyl]-benzoylamino}-propionic acid methyl ester and 4-tert-butyl phenyl boronic acid. Isomer 1 MS: 530.2 [M−H]−; Isomer 2 MS: 530.2 [M−H]−.

reactant | 3-{4-[1-(4-bromo-3,5-dimethyl-phenylsulfanyl)-3-methyl-butyl]-benzoylamino}-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CC(C)C)SC1=CC(=C(C(=C1)C)Br)C)=O)=O | C24H30BrNO3S
reactant | 4-tert-butyl phenyl boronic acid | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
product | 3-{4-[1-(4′-tert-butyl-2,6-dimethyl-biphenyl-4-ylsulfanyl)-3-methyl-butyl]-benzoylamino}-propionic acid | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C=C(C=C1C)SC(CC(C)C)C1=CC=C(C(=O)NCCC(=O)O)C=C1)C | C33H41NO3S
